US08404861B2
Production of N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide (Compound No. 1-123)
1,3,5-Trimethylpyrazole-4-carbonyl chloride (2.09 g, 10.0 mmol), 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline (2.0 g, 6.69 mmol), and triethylamine (1.35 g, 13.4 mmol) were dissolved in tetrahydrofuran (60 ml), and the mixture was heated under reflux for 5 hr. The reaction mixture was diluted with ethyl acetate, and washed with water. The organic layer was dried over anhydrous magnesium sulfate and concentrated under reduced pressure, and the obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:3) to give the desired compound (2.41 g).

reactant | 1,3,5-Trimethylpyrazole-4-carbonyl chloride | 10.0 mmol, 2.09 g | CN1N=C(C(=C1C)C(=O)Cl)C | C7H9ClN2O
reactant | 3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]aniline | 6.69 mmol, 2.0 g | C(C(C)C)C=1C=C(N)C=CC1C(C(F)(F)F)C(F)(F)F | C13H15F6N
reactant | triethylamine | 13.4 mmol, 1.35 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{3-isobutyl-4-[2,2,2-trifluoro-1-(trifluoromethyl)ethyl]phenyl}-1,3,5-trimethylpyrazole-4-carboxamide | 2.41 g, yield: 77% | C(C(C)C)C=1C=C(C=CC1C(C(F)(F)F)C(F)(F)F)NC(=O)C=1C(=NN(C1C)C)C | C20H23F6N3O
